US04533498
To a stirred solution of (±) 5-azido-2-benzoyl-2-azabicyclo[2,2,2]octane (D3d) (3.3 g) in dry THF (100 ml) under nitrogen was added a solution of diborane in THF (50 ml, 1M solution) and the whole heated under reflux for 12 hours. On cooling, an excess of 5N HCl was added and the mixture heated on a steam bath for 2 hrs. Basification and saturation with K2CO3, extraction with CH2Cl2, drying (K2CO3), concentration and distillation afforded the (±)-5-amino-2-benzyl-2-azabicyclo[2,2,2]-octane (D4b) (2.7 g, 85%) bp 120°-140°/0.1 mm.

reactant | (±) 5-azido-2-benzoyl-2-azabicyclo[2,2,2]octane | 3.3 g | N(=[N+]=[N-])C1C2CN(C(C1)CC2)C(C2=CC=CC=C2)=O | C14H16N4O
reactant | diborane | B#B | B2
reactant | HCl | 5N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 50 ml | C1CCOC1 | C4H8O
product | (±)-5-amino-2-benzyl-2-azabicyclo[2,2,2]-octane | 2.7 g, 85% | NC1C2CN(C(C1)CC2)CC2=CC=CC=C2 | C14H20N2
